US07524840B2
(2-amino-4,5-dimethylphenyl)-(2-chlorophenyl)-methanone (Xw) was prepared by reacting 2-chlorobenzaldehyde with 0.123 moles of 3,4-dimethyl aniline in a manner analogous to Example 1.

reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 3,4-dimethyl aniline | 0.123 moles | CC=1C=C(N)C=CC1C | C8H11N
product | (2-amino-4,5-dimethylphenyl)-(2-chlorophenyl)-methanone | NC1=C(C=C(C(=C1)C)C)C(=O)C1=C(C=CC=C1)Cl | C15H14ClNO
